US07732604B2
A solution of 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline (200 mg, 0.586 mmol) in MeOH (10 mL):AcOH (1 mL): EtOAc (1 mL) was degassed 3 times with nitrogen. To this solution was added Pd/C (20 mg). A balloon containing hydrogen was added via syringe and the reaction was allowed to stir for 18 hours at room temperature. The reaction did not complete and more Pd/C was added (20 mg) and stirred for 18 hours at room temperature. The reaction was stopped when LCMS showed a ratio of 1:1 (product:starting material). The reaction was filtered over celite and washed with EtOAc (50 mL). The filtered solution was concentrated and purified by Biotage silica gel column chromatography with EtOAc: Hexanes to give 30 mg of the product 6-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl-quinoline (20% yield).

reactant | 6-(6-bromo-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl)-quinoline | 0.586 mmol, 200 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 6-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl-quinoline | 20% yield | N1(N=NC=2C1=NC=CN2)CC=2C=C1C=CC=NC1=CC2 | C14H10N6
